US06734302B2
To a solution of 4-bromo-benzene-1,3-diol (1.50 g, 7.94 mmol) in acetone (10 mL) were added potassium carbonate (1.1 g, 7.94 mmol) and 2-iodopropane (1.58 mL, 15.87 mmol). The reaction mixture was heated at gentle reflux for 12 h. The solvent was removed to give a white paste. It was then taken in diethyl ether (50 mL). The white solids were filtered off and the filtrate was concentrated. Purification of the residue by Biotage flash chromatography eluting with 10% ethyl acetate in hexanes gave 4-bromo-3-isopropoxy-phenol (0.77 g, 42%).

reactant | 4-bromo-benzene-1,3-diol | 7.94 mmol, 1.50 g | BrC1=C(C=C(C=C1)O)O | C6H5BrO2
reactant | potassium carbonate | 7.94 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 15.87 mmol, 1.58 mL | IC(C)C | C3H7I
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 4-bromo-3-isopropoxy-phenol | 0.77 g, 42% | BrC1=C(C=C(C=C1)O)OC(C)C | C9H11BrO2
